US04215125
N,N'-bis[2-((3-bromo-2-pyridyl)methylthio)ethyl]guanidine
The reaction of 3-bromo-4-[(2-aminoethyl)thiomethyl]pyridine with N-benzoyl-bis-dimethylthioimidocarbonate in pyridine by the method described in Example 12 yielded N-benzoyl-N',N"-bis-[2-((3-bromo-2-pyridyl)methylthio)ethyl]guanidine which, on acid hydrolysis, yielded the title compound.

reactant | 3-bromo-4-[(2-aminoethyl)thiomethyl]pyridine | BrC=1C=NC=CC1CSCCN | C8H11BrN2S
reactant | N-benzoyl-N',N"-bis-[2-((3-bromo-2-pyridyl)methylthio)ethyl]guanidine | C(C1=CC=CC=C1)(=O)NC(=NCCSCC1=NC=CC=C1Br)NCCSCC1=NC=CC=C1Br | C24H25Br2N5OS2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N,N'-bis[2-((3-bromo-2-pyridyl)methylthio)ethyl]guanidine | BrC=1C(=NC=CC1)CSCCNC(=N)NCCSCC1=NC=CC=C1Br | C17H21Br2N5S2
